US06740662B1
In DMF was treated 3-(3-chlorobenzoyl)-2-ethylamino-6-dimethoxymethylpyridine with 60% sodium hydride, followed by the reaction with monoethyl chloroglutarate. Thereafter, the reaction mixture was worked up and purified in a usual manner. The resulting compound was reacted in ethanol in the presence of sodium methoxide under heating, and the reaction mixture was worked up and purified in a usual manner. Then, the resulting compound was reacted in a solution of 6M hydrochloric acid-dioxane (1:1) under heating, and then the reaction mixture was worked up and purified in a usual manner. The resulting compound was further reacted with methyl iodide in DMF in the presence of potassium carbonate, and then the reaction mixture was worked up and purified in a usual manner to obtain methyl 3-[4-(3-chlorophenyl)-1-ethyl-7-formyl-2-oxo-1,2-dihydro-1,8-naphthyridin-3-yl]propanoate. NMR1: 10.11 (1H, d, J=0.6 Hz), 2.45-2.95 (4H, m), 1.43 (3H, t, J=7.1 Hz).

reactant | 3-(3-chlorobenzoyl)-2-ethylamino-6-dimethoxymethylpyridine | ClC=1C=C(C(=O)C=2C(=NC(=CC2)C(OC)OC)NCC)C=CC1 | C17H19ClN2O3
reactant | sodium hydride | [H-].[Na+]
reactant | monoethyl chloroglutarate | ClC(C(=O)OCC)CCC(=O)[O-]
solvent | DMF | CN(C)C=O | C3H7NO
product | methyl 3-[4-(3-chlorophenyl)-1-ethyl-7-formyl-2-oxo-1,2-dihydro-1,8-naphthyridin-3-yl]propanoate | ClC=1C=C(C=CC1)C1=C(C(N(C2=NC(=CC=C12)C=O)CC)=O)CCC(=O)OC | C21H19ClN2O4
